US04229449
To 2 g of ethyl 2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionate dissolved in 30 ml of anhydrous dimethylformamide, CH3I (0.78 ml) was added at 3° C., then in two additions at the same temperature, NaH 50% (0.3 g) was added too. The whole was stirred at 3° C. for one hour and at room temperature for one hour, after which it was poured into 300 ml of water, extracted with ethyl ether which, after washing with NaCl saturated water and dehydration with sodium sulphate, was evaporated to dryness under reduced pressure. There was obtained 2 g (96%) of ethyl 2-methoxy-3-phenyl-3-(2-nitro-phenoxy)-propionate as an oil.

reactant | ethyl 2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propionate | 2 g | OC(C(=O)OCC)C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H17NO6
reactant | CH3I | 0.78 ml | CI | CH3I
reactant | NaH | 0.3 g | [H-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 2-methoxy-3-phenyl-3-(2-nitro-phenoxy)-propionate | 2 g, 96% | COC(C(=O)OCC)C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C18H19NO6
